US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(2-methyl-5-(4-methylpyridin-2-yl)phenyl)guanidine (200 mg) in dichloromethane (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at room temperature for 16 hours. The solvent was evaporated under reduced pressure. To the residue were added ethanol (2 ml) and ethyl acetate (10 ml), and the precipitate was collected by filtration and dried under reduced pressure to give (2-methyl-5-(4-methylpyridin-2-yl)phenyl)guanidine dihydrochloride (127 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(2-methyl-5-(4-methylpyridin-2-yl)phenyl)guanidine | 200 mg | C(C)(C)(C)OC(=O)NC(=NC1=C(C=CC(=C1)C1=NC=CC(=C1)C)C)NC(=O)OC(C)(C)C | C24H32N4O4
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | (2-methyl-5-(4-methylpyridin-2-yl)phenyl)guanidine dihydrochloride | 127 mg | Cl.Cl.CC1=C(C=C(C=C1)C1=NC=CC(=C1)C)NC(=N)N | InChI=1S/C14H16N4.2ClH/c1-9-5-6-17-13(7-9)11-4-3-10(2)12(8-11)18-14(15)16;;/h3-8H,1-2H3,(H4,15,16,18);2*1H
